US05863917
Hydrazine hydrate (696 μl, 716 mg, 14.3 mmol) was added dropwise to a solution of N-(6,7-dichloro-2,3-dimethoxyquinoxalin-5-yl)-N-(2-phthalimidoethyl)methanesulphonamide (3.76 g, 7.15 mmol) in a mixture of dichloromethane (71 ml) and methanol (5 ml) at room temperature under nitrogen. The mixture was heated at reflux for 4 days and then further methanol (20 ml) was added. After a further 2 days the mixture was allowed to cool and was concentrated under reduced pressure. The residue was dissolved in ethyl acetate and this was extracted 3 times with 10% aqueous citric acid. The combined acid extracts were adjusted to pH 9 with solid potassium carbonate and extracted 3 times with dichloromethane. The combined dichloromethane extracts were dried (MgSO4) and concentrated under reduced pressure. The residue was purified by flash chromatography on silica gel eluting with 95:5 dichloromethane:methanol to give N-(6,7-dichloro-2,3-dimethoxyquinoxalin-5-yl)-N-(2-aminoethyl)methanesulphonamide (1.96 g, 69%) as a pale yellow solid.

reactant | Hydrazine hydrate | 14.3 mmol, 696 μl, 716 mg | O.NN
reactant | N-(6,7-dichloro-2,3-dimethoxyquinoxalin-5-yl)-N-(2-phthalimidoethyl)methanesulphonamide | 7.15 mmol, 3.76 g | ClC=1C(=C2N=C(C(=NC2=CC1Cl)OC)OC)N(S(=O)(=O)C)CCN1C(C=2C(C1=O)=CC=CC2)=O | C21H18Cl2N4O6S
solvent | dichloromethane | 71 ml | ClCCl | CH2Cl2
solvent | methanol | 5 ml | CO | CH4O
solvent | methanol | 20 ml | CO | CH4O
product | N-(6,7-dichloro-2,3-dimethoxyquinoxalin-5-yl)-N-(2-aminoethyl)methanesulphonamide | 1.96 g, 69% | ClC=1C(=C2N=C(C(=NC2=CC1Cl)OC)OC)N(S(=O)(=O)C)CCN | C13H16Cl2N4O4S
